US09024027B2
Step 2: Preparation of 2-(5-methoxy-1H-indol-1-yl)acetic acid (44)
To a solution of methyl 2-(5-methoxy-1H-indol-1-yl)acetate (745 mg, 3.40 mmol) in MeOH (20 ml), aqueous 4N sodium hydroxide (935 μl, 3.74 mmol) was slowly added and the reaction was stirred at room temperature for 1 hour. The solvent was removed and the residue was partitioned between ethyl acetate and water. The aqueous phase was acidified with 2.5M HCl and extracted with ethyl acetate. This organic phase was washed with brine, dried over Na2SO4 and evaporated to dryness to give the title compound (510 mg, 2.485 mmol, 73% yield). MS/ESI+ 206.1 [MH]+.

reactant | methyl 2-(5-methoxy-1H-indol-1-yl)acetate | 3.40 mmol, 745 mg | COC=1C=C2C=CN(C2=CC1)CC(=O)OC | C12H13NO3
reactant | sodium hydroxide | 3.74 mmol, 4N, 935 μl | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | 2-(5-methoxy-1H-indol-1-yl)acetic acid | 2.485 mmol, 510 mg, 73% yield | COC=1C=C2C=CN(C2=CC1)CC(=O)O | C11H11NO3
